US07238808B2
5-[5-(4-Chloro-3-methyl-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-2,4-difluoro-benzenesulfonamide
The title compound was prepared from 5-(4-chloro-3-methyl-phenyl)-3-ethynyl-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine (example C.11) (178 mg, 0.5 mmol) and commercially available 5-bromo-2,4-difluoro-benzenesulfonamide (136 mg, 0.5 mmol) according to general procedure II. Obtained as a yellow solid (125 mg, 47%). MS (ISN) 525.2 [(M−H)−]; mp 294° C.

reactant | 5-(4-chloro-3-methyl-phenyl)-3-ethynyl-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine | 0.5 mmol, 178 mg | ClC1=C(C=C(C=C1)C1=NC=2N(C(=C1)C(F)(F)F)N=CC2C#C)C | C16H9ClF3N3
reactant | 5-bromo-2,4-difluoro-benzenesulfonamide | 0.5 mmol, 136 mg | BrC=1C(=CC(=C(C1)S(=O)(=O)N)F)F | C6H4BrF2NO2S
product | 5-[5-(4-Chloro-3-methyl-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-2,4-difluoro-benzenesulfonamide | ClC1=C(C=C(C=C1)C1=NC=2N(C(=C1)C(F)(F)F)N=CC2C#CC=2C(=CC(=C(C2)S(=O)(=O)N)F)F)C | C22H12ClF5N4O2S
